US06232290B1
A solution of methyl pyrazole-4-carboxylate (10 g) in N,N-dimethylformamide (100 ml) was treated with potassium carbonate (10.95 g) and 1-bromodecane (19.31 g) and the mixture was stirred for 16 hours at room temperature. Ethyl acetate was added and the solution was washed with water (6x), dried over magnesium sulfate and the evaporated residue was purified by silica gel chromatography (5:1 hexane-ethyl acetate elution) to give methyl 1-decylpyrazole-4-carboxylate (19.4 g) as a white solid.

reactant | methyl pyrazole-4-carboxylate | 10 g | N1N=CC(=C1)C(=O)OC | C5H6N2O2
reactant | potassium carbonate | 10.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromodecane | 19.31 g | BrCCCCCCCCCC | C10H21Br
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | methyl 1-decylpyrazole-4-carboxylate | 19.4 g | C(CCCCCCCCC)N1N=CC(=C1)C(=O)OC | C15H26N2O2
